US07332501B2
5-Bromo-1′-({6-chloro-1-[2-(3-fluorophenyl)-2-oxoethyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure III as described above, the alkylation of 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one with commercially available 2-chloro-1-(3-fluoro-phenyl)-ethanone gave the title compound.

reactant | 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CNC3=CC(=CC=C13)Cl)OC2=O | C21H16BrClN2O3
reactant | 2-chloro-1-(3-fluoro-phenyl)-ethanone | ClCC(=O)C1=CC(=CC=C1)F | C8H6ClFO
product | 5-Bromo-1′-({6-chloro-1-[2-(3-fluorophenyl)-2-oxoethyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CN(C3=CC(=CC=C13)Cl)CC(=O)C1=CC(=CC=C1)F)OC2=O | C29H21BrClFN2O4
